### PR TITLE
[Merged by Bors] - feat: extended canonical decomposition

### PR DESCRIPTION
**Pull request by kebekus**
Establish the Extended Canonical Decomposition of meromorphic functions, where a complex-meromorphic function `f` on a closed disk is written, up to modification over a discrete set, as a product of a non-vanishing analytic function, canonical factors and meromorphic functions of the form `(x - const) ^ n` where `const` is on the circumference of the disk.

This extended decomposition is key in the proof of the classic Poisson-Jensen formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 1]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+structure ECanonicalDecomp (f h : ℂ → E) (R : ℝ) where
+  /-- A proof that `f` is meromorphic on `closedBall 0 R`. -/
+  meromorphicOn : MeromorphicOn f (closedBall 0 R)
+
+  /-- A proof that `g` is analytin in a neighborhood of `closedBall 0 R`. -/
+  analyticOnNhd : AnalyticOnNhd ℂ h (closedBall 0 R)
+
+  /-- A proof that `g` does not vanish on the closed ball. -/
+  ne_zero : ∀ u ∈ (closedBall 0 R), h u ≠ 0
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: We generally don't insert blank lines between fields of a structure. Minor style point.
```suggestion
  /-- A proof that `g` is analytin in a neighborhood of `closedBall 0 R`. -/
  analyticOnNhd : AnalyticOnNhd ℂ h (closedBall 0 R)
  /-- A proof that `g` does not vanish on the closed ball. -/
  ne_zero : ∀ u ∈ (closedBall 0 R), h u ≠ 0
```

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 2]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+  /--
+  A proof that `f` is equal, up to modification over a discrete set, to a product of `g`, canonical
+  factors prescribed by the divisor of `f`, and a factorized rational function with poles and zeros
+  only on the boundary of the ball.
+  -/
+  eventuallyEq : f =ᶠ[codiscreteWithin (closedBall 0 R)]
+    ((∏ᶠ u, (canonicalFactor R u) ^ (-divisor f (ball 0 R) u))
+    * (∏ᶠ u, (· - u) ^ (divisor f (sphere 0 R)) u)) • h
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: Only for readability since there are two `∏ᶠ`s in this expression.
```suggestion
    * (∏ᶠ v, (· - v) ^ (divisor f (sphere 0 R)) v)) • h
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 3]
```diff
@@ -302,6 +302,16 @@ theorem codiscreteWithin_iff_locallyFiniteComplementWithin [T1Space X] {s U : Se
     use t \ (t ∩ (U \ s)), nhdsNE_of_nhdsNE_sdiff_finite (mem_nhdsWithin_of_mem_nhds h₁t) h₂t
     simp
 
+/--
+In a `T1Space`, every set is codiscrete within a subsingleton set.
+-/
+@[simp] theorem mem_codiscreteWithin_subsingleton [T1Space X] {s t : Set X}
```
Comment (j-loreaux) [inline Mathlib/Topology/DiscreteSubset.lean]:
```suggestion
@[simp] theorem mem_codiscreteWithin_of_subsingleton [T1Space X] {s t : Set X}
```

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 4]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+    simp_all
+  · have η₁ : AnalyticAt ℂ (∏ᶠ u, canonicalFactor R u ^ (-(divisor f (ball 0 R)) u)) x := by
+      apply analyticAt_finprod
+      intro a
+      by_cases ha : a ∈ ball 0 R
+      · exact AnalyticAt.zpow (analyticOnNhd_canonicalFactor _ _ _ (by aesop))
+          (canonicalFactor_ne_zero ha (by aesop) (by aesop))
+      · have := D.eventuallyEq
+        have := D.ne_zero
+        simp_all only [mem_ball, dist_zero_right, ne_eq, zpow_neg, not_lt,
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: the `have`s were not necessary. Also dot notation, and see my next comment about `apply` vs `refine`
```suggestion
      refine analyticAt_finprod fun a ↦ ?_
      by_cases ha : a ∈ ball 0 R
      · exact (analyticOnNhd_canonicalFactor _ _ _ (by aesop)).zpow 
          (canonicalFactor_ne_zero ha (by aesop) (by aesop))
      · simp_all only [mem_ball, dist_zero_right, not_lt,
```

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 5]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+          locallyFinsuppWithin.apply_eq_zero_of_notMem, neg_zero, zpow_zero]
+        exact analyticAt_const
+    have η₀ : f =ᶠ[𝓝[≠] x] (∏ᶠ u, canonicalFactor R u ^ (-(divisor f (ball 0 R)) u)) • g := by
+      apply MeromorphicAt.eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin_preperfect
+        (U := closedBall 0 R) (D.meromorphicOn x (by aesop))
+        (η₁.meromorphicAt.smul (D.meromorphicNFOn.meromorphicOn x (by aesop))) (by aesop) _
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: I prefer `refine` instead of `apply` in general, but especially so when `apply` uses `_`, because in that case, it's not clear whether Lean is able to infer the underscore, or whether that is the argument that is being supplied.
```
      refine MeromorphicAt.eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin_preperfect
        (U := closedBall 0 R) (D.meromorphicOn x (by aesop))
        (η₁.meromorphicAt.smul (D.meromorphicNFOn.meromorphicOn x (by aesop))) (by aesop) ?_
```

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 6]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+        D.eventuallyEq
+      rw [← closure_ball 0 hR.ne']
+      exact isOpen_ball.perfect_closure.2
+    have : meromorphicOrderAt (∏ᶠ u, canonicalFactor R u ^ (-(divisor f (ball 0 R)) u)) x = 0 := by
+      apply η₁.meromorphicNFAt.meromorphicOrderAt_eq_zero_iff.2 (finprod_apply_ne_zero _)
+      intro a
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: likewise
```suggestion
      refine η₁.meromorphicNFAt.meromorphicOrderAt_eq_zero_iff.2 (finprod_apply_ne_zero fun a ↦ ?_)
```

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 7]
```diff
@@ -385,4 +386,135 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
         filter_upwards [toMeromorphicNFOn_eqOn_codiscrete hφ] using by simp_all [g]
   }
 
+/--
+Given a canonical decomposition `CanonicalDecomp f g R`, the function associated with the divisor of
+`g` equals the function associated with the divisor of `f`, seen as a meromorphic function on the
+sphere.
+-/
+theorem CanonicalDecomp.divisor_eq_divisor {x : ℂ} (D : CanonicalDecomp f g R) (hR : 0 < R) :
+    divisor g (closedBall (0 : ℂ) R) x = divisor f (sphere 0 R) x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean:392]: Please outline the proof in comments.

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: Roger. Implemented.

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/CanonicalDecomposition.lean:392]: Added comments as requested.

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 8]
```diff
@@ -385,4 +383,134 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+  /-- A proof that `g` does not vanish on the closed ball. -/
+  ne_zero : ∀ u ∈ (closedBall 0 R), h u ≠ 0
+  /--
+  A proof that `f` is equal, up to modification over a discrete set, to a product of `g`, canonical
+  factors prescribed by the divisor of `f`, and a factorized rational function with poles and zeros
+  only on the boundary of the ball.
+  -/
+  eventuallyEq : f =ᶠ[codiscreteWithin (closedBall 0 R)]
+    ((∏ᶠ u, (canonicalFactor R u) ^ (-divisor f (ball 0 R) u))
+    * (∏ᶠ v, (· - v) ^ (divisor f (sphere 0 R)) v)) • h
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: You use `g` in the docstrings, but `h` in the actual definition. Let's pick one to avoid confusion from a future reader.

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean [hunk 9]
```diff
@@ -385,4 +383,134 @@ theorem _root_.MeromorphicOn.exists_canonicalDecomp
...
+    }
+  obtain ⟨g, D⟩ := h₁f.exists_canonicalDecomp h₂f
+  have h₄g : ∀ (u : closedBall (0 : ℂ) R), meromorphicOrderAt g u ≠ ⊤ := by
+    rw [← D.meromorphicNFOn.meromorphicOn.exists_meromorphicOrderAt_ne_top_iff_forall
+      (Metric.isConnected_closedBall hR.le)]
+    have s₁ : (0 : ℂ) ∈ closedBall 0 R := by simp [hR.le]
+    use ⟨0, s₁⟩
+    simp [(D.meromorphicNFOn s₁).meromorphicOrderAt_eq_zero_iff.2 (D.ne_zero 0 (by simp [hR]))]
+  obtain ⟨h, h₁h, h₂h, h₃h⟩ := D.meromorphicNFOn.meromorphicOn.extract_zeros_poles h₄g
+    ((divisor g (closedBall 0 R)).finiteSupport (isCompact_closedBall 0 R))
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: For me this makes it easier to parse
```suggestion
  obtain ⟨h, h₁h, h₂h, h₃h⟩ := D.meromorphicNFOn.meromorphicOn.extract_zeros_poles h₄g <|
    (divisor g (closedBall 0 R)).finiteSupport <| isCompact_closedBall 0 R
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 10]
```diff
@@ -302,6 +302,16 @@ theorem codiscreteWithin_iff_locallyFiniteComplementWithin [T1Space X] {s U : Se
     use t \ (t ∩ (U \ s)), nhdsNE_of_nhdsNE_sdiff_finite (mem_nhdsWithin_of_mem_nhds h₁t) h₂t
     simp
 
+/--
+In a `T1Space`, every set is codiscrete within a subsingleton set.
+-/
+@[simp] theorem mem_codiscreteWithin_of_subsingleton [T1Space X] {s t : Set X}
```
Comment (j-loreaux) [inline Mathlib/Topology/DiscreteSubset.lean]: optional
```suggestion
@[simp] theorem Set.Subsingleton.mem_codiscreteWithin [T1Space X] {s t : Set X}
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Complex/CanonicalDecomposition.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/CanonicalDecomposition.lean]: Fixed.

**Comment by kebekus** [comment]
@j-loreaux Thank you for the help!

bors r+
